US05030652
In the same manner as described in Examples 24 and 33, methyl (2-aminoindan-5-yl)acetate hydrochloride, 4-chlorophenylsulfonyl chloride and methyl N-methyl-glycinate hydrochloride are treated to give 2-[N-[2-[(4-chlorophenyl)sulfonylamino]indan-5-yl]acetyl-N-methylamino]-acetic acid

reactant | methyl (2-aminoindan-5-yl)acetate hydrochloride | Cl.NC1CC2=CC=C(C=C2C1)CC(=O)OC
reactant | 4-chlorophenylsulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | methyl N-methyl-glycinate hydrochloride | Cl.CNCC(=O)OC
product | 2-[N-[2-[(4-chlorophenyl)sulfonylamino]indan-5-yl]acetyl-N-methylamino]-acetic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)CC(=O)N(C)CC(=O)O | C20H21ClN2O5S
